US06172085B2
1-(2-Phenylethyl)piperazine
Using β-phenethyl bromide and piperzine, the procedure of Reference Example 16 was otherwise repeated to provide the title compound. Yield 92%.

reactant | β-phenethyl bromide | C1=CC=C(C=C1)CCBr | C8H9Br
reactant | piperzine | N1CCNCC1 | C4H10N2
product | 1-(2-Phenylethyl)piperazine | Yield 92% | C1(=CC=CC=C1)CCN1CCNCC1 | C12H18N2
